US07592453B2
4-{[((1R,2S)-2-{[(3aR,4R,9bR)-4-Phenyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)amino]carbonyl}benzoic acid
To a solution of methyl 4-{[((1R,2S)-2-{[(3aR,4R,9bR)-4-phenyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)amino]carbonyl}benzoate (77 mg, 0.14 mmol) in tetrahydrofuran (4 ml) and methanol (1 ml) was added 2N aqueous sodium hydroxide solution (1 ml), and the mixture was stirred at 60° C. for 16 hrs. The reaction mixture was neutralized (pH 7) by adding 3N hydrochloric acid under ice-cooling. The mixture was concentrated under reduced pressure and extracted with a mixed solvent of ethyl acetate-tetrahydrofuran (2:1, v/v). The extract was dried over anhydrous Na2SO4, and the solvent was evaporated under reduced pressure. The obtained solid was washed with isopropyl ether-hexane (1:2, v/v) to give the title compound (51 mg, 68%) as a white solid.

reactant | methyl 4-{[((1R,2S)-2-{[(3aR,4R,9bR)-4-phenyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)amino]carbonyl}benzoate | 0.14 mmol, 77 mg | C1(=CC=CC=C1)[C@@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2C(=O)[C@@H]2[C@@H](CCCC2)NC(=O)C2=CC=C(C(=O)OC)C=C2 | C33H35N3O4
reactant | sodium hydroxide | 2N, 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | methanol | 1 ml | CO | CH4O
product | 4-{[((1R,2S)-2-{[(3aR,4R,9bR)-4-Phenyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)amino]carbonyl}benzoic acid | 51 mg, 68% | C1(=CC=CC=C1)[C@@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2C(=O)[C@@H]2[C@@H](CCCC2)NC(=O)C2=CC=C(C(=O)O)C=C2 | C32H33N3O4
